### PR TITLE
[Merged by Bors] - feat: tweak calc widget

### PR DESCRIPTION
**Pull request by PatrickMassot**
First make the help text clearer for people who do not know how to select stuff in the info view (in VSCode or lean4web) by mentioning Shift-click.

Then make the indentation handling more robust to various calc layouts.

Also introduces a calc? tactic to complement the calc code action. The issues with the calc code action are:
1) it requires a valid calc syntax so writing calc is not enough. I
   typically write calc _ to get the code action. But when you write
   calc and there is already something below that could vaguely be
   mistaken for a calc then the code action triggers and the replacement
   swallows the following syntax.
2) A code action is less visible than a TryThis (but this wouldn’t be
   enough motivation for me without the previous point).

Also get rid of two `unreachable!` since experience show that those branches can be reached when handling malformed inputs, and the panic is awful for users.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Widget/Calc.lean [hunk 1]
```diff
@@ -124,19 +126,30 @@ def CalcPanel : Component CalcParams :=
...
+open Lean Meta Tactic TryThis in
+/-- Create a `calc` proof. -/
+elab stx:"calc?" : tactic => do
+  let some calcRange := (← getFileMap).rangeOfStx? stx | throwError "calc? failed"
+  let indent := calcRange.start.character + 2
+  let spc := String.replicate indent ' '
+  let goalType ← getMainTarget
+  unless (← Lean.Elab.Term.getCalcRelation? goalType).isSome do
+    throwError "Cannot start a calculation here: the goal{indentExpr goalType}\nis not a relation."
+  let goalFmt ← Meta.ppExpr (← getMainTarget)
```
Comment (eric-wieser) [inline Mathlib/Tactic/Widget/Calc.lean:139]: This presumably needs a `withMainContext` around it (and perhaps just the whole tactic) to avoid printing issues.

File: Mathlib/Tactic/Widget/Calc.lean [hunk 2]
```diff
@@ -124,19 +126,30 @@ def CalcPanel : Component CalcParams :=
   mk_rpc_widget% CalcPanel.rpc
 
 namespace Lean.Elab.Tactic
-open Meta
+
+open Lean Meta Tactic TryThis in
+/-- Create a `calc` proof. -/
+elab stx:"calc?" : tactic => do
```
Comment (eric-wieser) [inline Mathlib/Tactic/Widget/Calc.lean:132]: Can you add a test for this with `guard_msgs`?

Comment (PatrickMassot) [reply Mathlib/Tactic/Widget/Calc.lean]: Done.

File: Mathlib/Tactic/Widget/Calc.lean (hunk 1 above)
Comment (PatrickMassot) [reply Mathlib/Tactic/Widget/Calc.lean:139]: Weirdly, it worked with this, but I added it just in case.

Comment (eric-wieser) [reply Mathlib/Tactic/Widget/Calc.lean:139]: I would expect it to break if you inserted a `have` into the context or something similar. If the tactic is first in `by`, then `withMainContext` is a no-op.

File: Mathlib/Tactic/Widget/Calc.lean [hunk 3]
```diff
@@ -124,19 +126,30 @@ def CalcPanel : Component CalcParams :=
...
+elab stx:"calc?" : tactic => withMainContext do
+  let some calcRange := (← getFileMap).rangeOfStx? stx | throwError "calc? failed"
+  let indent := calcRange.start.character + 2
+  let spc := String.replicate indent ' '
+  let goalType ← getMainTarget
+  unless (← Lean.Elab.Term.getCalcRelation? goalType).isSome do
+    throwError "Cannot start a calculation here: the goal{indentExpr goalType}\nis not a relation."
+  let goalFmt ← Meta.ppExpr (← getMainTarget)
+  let s := s!"calc\n{spc}{goalFmt} := by sorry"
+  addSuggestions (← getRef) #[.suggestion s] (header := "Create calc tactic:")
```
Comment (eric-wieser) [inline Mathlib/Tactic/Widget/Calc.lean:141]: I think it would be better to construct this from a `TSyntax` object than from a string; was there a reason you didn't do that?

**Comment by eric-wieser** [comment]
> Also get rid of two `unreachable!` since experience show that those branches can be reached when handling malformed inputs, and the panic is awful for users.

Can you add tests for those cases?

File: Mathlib/Tactic/Widget/Calc.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Tactic/Widget/Calc.lean:141]: That is
```suggestion
  let s ← `(tactic| calc $(← Lean.PrettyPrinter.delab (← getMainTarget)) := by sorry)
  addSuggestions (← getRef) #[.suggestion s] (header := "Create calc tactic:")
```

File: Mathlib/Tactic/Widget/Calc.lean [hunk 4]
```diff
@@ -124,19 +126,30 @@ def CalcPanel : Component CalcParams :=
...
 namespace Lean.Elab.Tactic
-open Meta
+
+open Lean Meta Tactic TryThis in
+/-- Create a `calc` proof. -/
+elab stx:"calc?" : tactic => withMainContext do
+  let some calcRange := (← getFileMap).rangeOfStx? stx | throwError "calc? failed"
+  let indent := calcRange.start.character + 2
+  let spc := String.replicate indent ' '
+  let goalType ← getMainTarget
```
Comment (adomani) [inline Mathlib/Tactic/Widget/Calc.lean:136]:
```suggestion
  let goalType ← whnfR (← getMainTarget)
```
to remove stuff like `mdata` from the `Expr`.  You can test that something like this is helpful with
```lean
example : 1 = 1 := by
  have := 0
  calc?
```

**Comment by PatrickMassot** [comment]
> > Also get rid of two `unreachable!` since experience show that those branches can be reached when handling malformed inputs, and the panic is awful for users.
> 
> Can you add tests for those cases?

I’m afraid I don’t have such case at hand. You need student superpowers to trigger such bugs.

File: Mathlib/Tactic/Widget/Calc.lean (hunk 3 above)
Comment (PatrickMassot) [reply Mathlib/Tactic/Widget/Calc.lean:141]: I specifically want to handle spaces here.

File: Mathlib/Tactic/Widget/Calc.lean (hunk 4 above)
Comment (PatrickMassot) [reply Mathlib/Tactic/Widget/Calc.lean]: Good catch, thanks!

File: MathlibTest/CalcQuestionMark.lean [hunk 5]
```diff
@@ -0,0 +1,24 @@
...
+/--
+info: Create calc tactic:
+• calc
+    1 = 1 := by sorry
+---
+warning: declaration uses 'sorry'
+-/
+#guard_msgs in
+example : 1 = 1 := by
+  calc?
```
Comment (adomani) [inline MathlibTest/CalcQuestionMark.lean:12]:
```suggestion
  have := 0
  calc?
```
so as to test also that `mdata` in the target does not affect the `calc?` tactic.

File: Mathlib/Tactic/Widget/Calc.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Tactic/Widget/Calc.lean:141]: According to my test, the `Syntax` version already handles the spaces correctly for you in all the ways that matter (everything but `guard_msgs`).

Comment (adomani) [reply Mathlib/Tactic/Widget/Calc.lean:141]: In case it is helpful, my local test also *displays* the wrong spacing, but the action really inserts the correct indentation.

Comment (eric-wieser) [reply Mathlib/Tactic/Widget/Calc.lean:141]: > In case it is helpful, my local test also displays the wrong spacing,

I think it is worth reporting this upstream, but I don't think it is worth working around. In fact, the workaround here is actually broken if `goalFmt` contains a newline, but (I assume) works correctly with my suggestion.

**Comment by adomani** [comment]
I am happy with the current state of the PR.  I have not used widgets much myself, but I imagine that the current PR at least fixes some issues that Patrick saw!

The only remaining issue is the indention: I prefer Eric's solution, but given that it is interlaced with a displaying bug that *appears* to produce the wrong indentation, maybe you can leave the code as is, but add a comment mentioning the issue that Eric points to and the `TSyntax` approach?

**Comment by eric-wieser** [comment]
> The only remaining issue is the indention: I prefer Eric's solution

To make things easier for you, the last commit I pushed switches to my version, and shows the effect of it on some new tests I added. If you feel really strongly, then feel free to revert that commit (and add the comments @adomani requests in its place).

**Comment by PatrickMassot** [comment]
I don’t care about `TSyntax` or `String`, I simply need this merged.

**Comment by eric-wieser** [comment]
In that case

bors merge
